US07745452B2
To a −78° C. solution of 2-amino-5-fluoro-N-methoxy-N-methylbenzamide in THF (100 mL) was added 1M phenylmagnesium bromide in THF (124.12 mL, 124.12 mmol). The reaction was stirred from −78° C. to ambient temperature over 3.5 h and then cooled again to −78° C. Additional 1M phenylmagnesium bromide in THF (62.06 mL, 62.06 mmol) was added and the reaction stirred at −78° C. for another hour. The reaction was then diluted with CH2Cl2 (500 mL) and quenched with saturated ammonium chloride solution (300 mL). The layers were separated and the organic one washed with brine (300 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by normal phase chromatography (3-8% MeOH/CH2Cl2) yielded (2-amino-5-fluorophenyl)(phenyl)methanone as a yellow solid. 1H NMR (CDCl3, 400 MHz) 7.63 (m, 2H, ArH); 7.55 (m, 1H, ArH); 7.47 (m, 2H, ArH); 7.15 (m, 1H, ArH); 7.08 (m, 1H, ArH); 6.70 (m, 1H, ArH); 5.91 (s, NH2); MS (Electrospray): m/z 216.1 (M+H).

reactant | 2-amino-5-fluoro-N-methoxy-N-methylbenzamide | NC1=C(C(=O)N(C)OC)C=C(C=C1)F | C9H11FN2O2
reactant | phenylmagnesium bromide | 1M | C1(=CC=CC=C1)[Mg]Br
reactant | phenylmagnesium bromide | 1M | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 62.06 mmol, 62.06 mL | C1CCOC1 | C4H8O
solvent | THF | 124.12 mmol, 124.12 mL | C1CCOC1 | C4H8O
product | (2-amino-5-fluorophenyl)(phenyl)methanone | NC1=C(C=C(C=C1)F)C(=O)C1=CC=CC=C1 | C13H10FNO
